2143-11-13 07:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Serum sickness;
   Erythromycin Base
   Serum sickness;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-11-13**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 85 (68 - 86) bpm
   BP: 175/97(116) {125/59(75) - 176/97(116)} mmHg
   RR: 23 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 52 Inch
                  Total In:
                                                                    363 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
                                                                      3 mL
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                    325 mL
   Urine:
                                                                  2,075 mL
                                                                    325 mL
   NG:
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,962 mL
                                                                   -325 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: /// 29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   1.3 mg/dL
   3.0 mEq/L
   25 mg/dL
        [image002.jpg]
                             [**2143-11-12**]  09:02 PM
   Cr
   1.3
   TropT
   0.01
   Other labs: CK / CKMB / Troponin-T:60//0.01, Ca++:9.0 mg/dL, Mg++:2.0
   mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 .H/O HEART DISEASE, OTHER
 .H/O HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE
   EMERGENCY)
 .H/O HEADACHE
 .H/O NAUSEA / VOMITING
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2143-11-12**] 04:00 PM
   18 Gauge - [**2143-11-12**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: